US08648066B2
To a solution of 3-amino-5-bromo-2-chloropyridine (0.23 g, 1.1 mmol) in acetonitrile (3.0 mL) at −15° C. was added a solution of sodium nitrite (0.091 g, 1.3 mmol) in water (1.20 mL), followed by the addition of concentrate hydrochloric acid (1.8 mL, 21.3 mmol) and the reaction mixture was stirred for 5 minutes. A 30 wt % solution of sulfur dioxide in acetic acid 3.0 mL, 1.3 mmol) was prepared and introduced into the reaction mixture, followed by the addition of a solution of copper(II) chloride 0.091 g, 0.68 mmol) in water (1.2 mL). The stirring was continued for an additional 3 hours at −5° C. The pH of the mixture was adjusted to 8 by the addition of a solution of potassium hydrogenphosphate and 2M aqueous sodium hydroxide and partitioned with ethyl acetate (50 mL). The organic layer was separated and washed with water (10 mL) and brine (10 mL), dried over sodium sulfate, filtered and concentrated to give 5-bromo-2-chloropyridine-3-sulfonyl chloride (0.20 g, 63%).

reactant | 3-amino-5-bromo-2-chloropyridine | 1.1 mmol, 0.23 g | NC=1C(=NC=C(C1)Br)Cl | C5H4BrClN2
reactant | sodium nitrite | 1.3 mmol, 0.091 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 21.3 mmol, 1.8 mL | Cl | ClH
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | acetic acid | 1.3 mmol, 3.0 mL | C(C)(=O)O | C2H4O2
reactant | potassium hydrogenphosphate | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | acetonitrile | 3.0 mL | C(C)#N | C2H3N
solvent | water | 1.20 mL | O | H2O
solvent | water | 1.2 mL | O | H2O
catalyst | copper(II) chloride | 0.68 mmol, 0.091 g | [Cu](Cl)Cl
product | 5-bromo-2-chloropyridine-3-sulfonyl chloride | 0.20 g, 63% | BrC=1C=C(C(=NC1)Cl)S(=O)(=O)Cl | C5H2BrCl2NO2S
